US05736548
To a mixture of 3-hydroxybenzonitrile (4.76 g, 0.04 mol), K2CO3 (16.6 g, 0.12 mol) and DMF (100 ml) under argon was added 4-chloromethylpyridine hydrochloride (6.56 g, 0.04 mol). The reaction mixture was stirred at room temperature for about two days, the solvent was evaporated and the residue was partitioned between water and CH2 Cl2. The organic layer was washed with 2N aqueous NaOH (1×100 ml), brine, then was dried over MgSO4. The solvent was removed in vacuo to afford, as an amber solid, 9.0 g of 3-(4-pyridinylmethoxy)benzonitrile.

reactant | 3-hydroxybenzonitrile | 0.04 mol, 4.76 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | K2CO3 | 0.12 mol, 16.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloromethylpyridine hydrochloride | 0.04 mol, 6.56 g | Cl.ClCC1=CC=NC=C1
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(4-pyridinylmethoxy)benzonitrile | 9.0 g | N1=CC=C(C=C1)COC=1C=C(C#N)C=CC1 | C13H10N2O
